US08748612B2
To sodium hydride (600 mg, 15 mmol) in anhydrous THF (5 mL) at 0° C., was added dropwise 2-(4-(trifluoromethoxy)phenyl)acetonitrile (1006 mg, 5 mmol) and then the reaction mixture was stirred for 5 mins, followed by dibromobutane (1075 mg, 5 mmol) dropwise. The reaction mixture was heated to reflux for 16 h, then cooled to 0° C., quenched with MeOH (1 mL), diluted with EtOAC (50 mL) and washed with brine (3×50 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo to give 1-(4-(trifluoromethoxy)phenyl)cyclopentanecarbonitrile as a yellow oil (905 mg, 71%) (1H NMR (400 MHz, CDCl3) 7.50 (dd, J=2.1, 6.7 Hz, 2H), 7.25 (d, J=8.2 Hz, 2H), 2.53-2.49 (m, 2H), 2.10-1.97 (m, 6H)

reactant | sodium hydride | 15 mmol, 600 mg | [H-].[Na+]
reactant | 2-(4-(trifluoromethoxy)phenyl)acetonitrile | 5 mmol, 1006 mg | FC(OC1=CC=C(C=C1)CC#N)(F)F | C9H6F3NO
reactant | dibromobutane | 5 mmol, 1075 mg | BrC(C)C(C)Br | C4H8Br2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(4-(trifluoromethoxy)phenyl)cyclopentanecarbonitrile | 905 mg, 71% | FC(OC1=CC=C(C=C1)C1(CCCC1)C#N)(F)F | C13H12F3NO
